US06949579B2
840 mg of 4-tert-butylphenylboronic acid, 1.24 g of caesium fluoride, 13.5 mg of palladium acetate and finally 31 mg of 2-dicyclohexylphosphine-2-(N,N-dimethylamino)biphenyl are added to 1 g of N-[6-chloro-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 25, in 30 cm3 of dioxane. The mixture is heated at about 102° C. for 21 hours and the temperature is then allowed to return to room temperature and the reaction medium is diluted with 75 cm3 of ethyl acetate, filtered through a sinter funnel packed with Celite and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The work-up and the purification are performed by analogy with Example 41. 1.13 g of N-[6-[4-(1,1-dimethylethyl)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are thus obtained in the form of a yellow oil.

reactant | 4-tert-butylphenylboronic acid | 840 mg | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | caesium fluoride | 1.24 g | [F-].[Cs+]
reactant | N-[6-chloro-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | ClC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26ClN3O2Si
solvent | dioxane | 30 cm3 | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 13.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[6-[4-(1,1-dimethylethyl)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.13 g | CC(C)(C)C1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C27H39N3O2Si
